US07960584B2
3-(4-t-Butyl-phenyl)-N-(3-fluoro-4-methanesulfonylamino-5-methyl-benzyl)-acrylamide
N-(4-Aminomethyl-2-fluoro-6-methyl-phenyl)-methanesulfonamide, and HCl salt (100 mg, 0.35 mmol) were reacted with 3-(4-t-butyl-phenyl)-acrylic acid following the general procedure to give a white solid (140 mg, 96%).

reactant | N-(4-Aminomethyl-2-fluoro-6-methyl-phenyl)-methanesulfonamide | NCC1=CC(=C(C(=C1)C)NS(=O)(=O)C)F | C9H13FN2O2S
reactant | HCl | 0.35 mmol, 100 mg | Cl | ClH
reactant | 3-(4-t-butyl-phenyl)-acrylic acid | C(C)(C)(C)C1=CC=C(C=C1)C=CC(=O)O | C13H16O2
product | 3-(4-t-Butyl-phenyl)-N-(3-fluoro-4-methanesulfonylamino-5-methyl-benzyl)-acrylamide | 140 mg, 96% | C(C)(C)(C)C1=CC=C(C=C1)C=CC(=O)NCC1=CC(=C(C(=C1)C)NS(=O)(=O)C)F | C22H27FN2O3S
